US09062015B2
FS905: 7-{6-[4-(5-Hydroxypentyl)piperazin-1-yl]pyridin-2-yl}-4,4-dimethyl-1,2,3,4-tetrahydronaphthalen-1-ol
50 mg (0.12 mmol) of 7-{6-[4-(5-hydroxypentyl)piperazin-1-yl]pyridin-2-yl}-4,4-dimethyl-3,4-dihydro-2H-naphthalen-1-one are dissolved in 0.5 ml of THF and 1 ml of methanol, cooled to 0° C., and 4.5 mg (0.12 mmol) of sodium borohydride are added. The reaction mixture is stirred for 30 min, water is added, and the mixture is extracted with ethyl acetate, dried and evaporated. The crude product is purified by means of prep HPLC and subsequently converted into the hydrochloride using methanolic HCl.

reactant | 7-{6-[4-(5-hydroxypentyl)piperazin-1-yl]pyridin-2-yl}-4,4-dimethyl-3,4-dihydro-2H-naphthalen-1-one | 0.12 mmol, 50 mg | OCCCCCN1CCN(CC1)C1=CC=CC(=N1)C1=CC=C2C(CCC(C2=C1)=O)(C)C | C26H35N3O2
reactant | sodium borohydride | 0.12 mmol, 4.5 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 7-{6-[4-(5-Hydroxypentyl)piperazin-1-yl]pyridin-2-yl}-4,4-dimethyl-1,2,3,4-tetrahydronaphthalen-1-ol | OCCCCCN1CCN(CC1)C1=CC=CC(=N1)C1=CC=C2C(CCC(C2=C1)O)(C)C | C26H37N3O2
